US05308857
A mixture of acetic anhydride (2.4 ml) and formic acid (1.0 ml) was stirred for 30 minutes at 50° to 60° C. The above mixture was added to a mixture of 4-(5-aminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole (1.5 g) in tetrahydrofuran (15 ml) and N,N-dimethylformamide (15 ml) at ambient temperature and the mixture was stirred for 2.5 hours at ambient temperature. To the reaction mixture was added a mixture of ethyl acetate, tetrahydrofuran and water and the mixture was adjusted to pH 9.5 with 20% aqueous potassium carbonate. The separated organic layer was washed with a brine and dried over magnesium sulfate. The solvent was removed by concentratoin in vacuo and the residue was recrystallized from a mixture of methanol, dioxane and tetrahydrofuran to give 2-(diaminomethyleneamino)-4-(5-formamidomethylfuran-2-yl)thiazole (0.80 g).

reactant | acetic anhydride | 2.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 1.0 ml | C(=O)O | CH2O2
reactant | 4-(5-aminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole | 1.5 g | NCC1=CC=C(O1)C=1N=C(SC1)N=C(N)N | C9H11N5OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(diaminomethyleneamino)-4-(5-formamidomethylfuran-2-yl)thiazole | 0.80 g | NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC=O | C10H11N5O2S
